US07268230B2
Using an analogous procedure to that described for the preparation of Example 11, 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2R)-pyrrolidin-2-ylmethoxy]quinazoline (160 mg, 0.38 mmol) was reacted with acetyl chloride (32 μl, 0.46 mmol). The crude product was purified by column chromatography eluting with methanol/methylene chloride (2/98) to give 7-[(2R)-1-acetylpyrrolidin-2-ylmethoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (82 mg, 46%).

reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2R)-pyrrolidin-2-ylmethoxy]quinazoline | 0.38 mmol, 160 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@@H]1NCCC1)C | C23H23FN4O3
reactant | acetyl chloride | 0.46 mmol, 32 μl | C(C)(=O)Cl | C2H3ClO
product | 7-[(2R)-1-acetylpyrrolidin-2-ylmethoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 82 mg, 46% | C(C)(=O)N1[C@H](CCC1)COC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C25H25FN4O4
